US06969725B2
In analogy to the procedure described in example 1 f], (2S)-2-ethoxy-3-(4-hydroxy-2,6-dimethyl-phenyl)-propionic acid methyl ester was reacted with 4-chloromethyl-5-methyl-2-phenyl-oxazole in the presence of cesium carbonate and potassium iodide to yield (S)-3-[2,6-dimethyl-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-2-ethoxy-propionic acid methyl ester as colorless liquid.

reactant | (2S)-2-ethoxy-3-(4-hydroxy-2,6-dimethyl-phenyl)-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1C)O)C)OCC)=O | C14H20O4
reactant | 4-chloromethyl-5-methyl-2-phenyl-oxazole | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | (S)-3-[2,6-dimethyl-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1C)OCC=1N=C(OC1C)C1=CC=CC=C1)C)OCC)=O | C25H29NO5
